US08084490B2
(Benzo[1,3]dioxol-2-ylmethyl)sulfamide (Compound #2)
C-Benzo[1,3]dioxol-2-yl-methylamine (2.94 g, 19.4 mmol) and sulfamide (3.74 g, 38.9 mmol) were combined in dry dioxane (50 mL) and the solution was heated to reflux overnight. The reaction was concentrated and the residue was chromatographed (2% to 10% acetone in dichloromethane) to yield the title compound as a white solid.

reactant | C-Benzo[1,3]dioxol-2-yl-methylamine | 19.4 mmol, 2.94 g | O1C(OC2=C1C=CC=C2)CN | C8H9NO2
reactant | sulfamide | 38.9 mmol, 3.74 g | S(=O)(=O)(N)N | H4N2O2S
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | (Benzo[1,3]dioxol-2-ylmethyl)sulfamide | O1C(OC2=C1C=CC=C2)CNS(=O)(=O)N | C8H10N2O4S
